Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Slurred speech
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ left-handed woman with a past
medical history of recent admission to ___ for TIA
symptoms (___), hypertension, hyperlipidemia, and mild
cognitive impairment who presents with right facial droop,
slurred speech, and right-sided discoordination.

On ___, patient was reportedly a passenger in a car when she
suddenly started stuttering and slurring her speech.  She tells
me that she "knew the words but I did not know how to say them"
and "I feel like I had lisp". She could understand what her
husband was saying to her and had no difficulty thinking a
particular words.  The symptoms lasted about 5 minutes.  Upon
arriving home, her husband noted that she was wobbly while
walking.  Her speech then also started to slur again prompting
calling EMS.  The symptoms had never happened before.

Patient was brought to ___  where symptoms resolved after
about 5 hours.  ___ records, her NIHSS was 0 at
presentation. She was admitted for a TIA workup.  She had a CT
angiogram head and neck is unremarkable apart from minor
atherosclerosis.  She had an MRI of the brain that was also
unremarkable apart from chronic small vessel ischemic disease. 
She also had an echocardiogram that showed normal ejection
fraction with preserved global and regional biventricular
systolic function.  Her LDL was 121 and her atorvastatin was
increased to 20 mg from the home dosing of 10 mg.  She was
started on aspirin 81 mg daily.  She was also discharged with
plans for 2 weeks Zio patch for cardiac monitoring.

On the day of discharge, ___, patient reports feeling well and
at her baseline.  She slept through the night well.  On the
morning of presentation, she awoke "not feeling right" and again
"could not talk right". She tells me "my mouth doesn't seem to 
be
talking the way it should be talking".  She also noted that her
right leg was weak.

EMS was again called and she was brought to an outside hospital. 

MRI of the brain revealed an acute area of ischemia involving 
the
left caudate nucleus, posterior limb of internal capsule, and
left lentiform nucleus.  She was then transferred to ___ for
further management.

 
Past Medical History:
Mild cognitive impairment 
Hypertension
Hyperlipidemia 
 
Social History:
___
Family History:
Mother and brother with Alzheimer's disease.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
General: NAD, resting in bed
HEENT: NCAT, no oropharyngeal lesions, moist mucous membranes,
sclerae anicteric
___: RRR
Pulmonary: CTAB
Abdomen: Soft, NT, ND
Extremities: Warm, no edema
Skin: No rashes or lesions

Neurologic Examination:
- Mental Status - Awake, alert, oriented to person, place and
time. Attention to examiner easily maintained. Recalls a 
coherent
history. Speech is fluent with full sentences, intact 
repetition,
and intact verbal comprehension. Content of speech demonstrates
intact naming (high and low frequency) and no paraphasias. 
Normal
prosody. No evidence of hemineglect. No left-right agnosia.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggling.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Mild dysarthria. Palate elevation
symmetric. Trapezius strength ___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone. + Right pronator drift. No 
tremor
or asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  4+  5    4+ 4+    5     4+

- Sensory - No deficits to light touch, pin, or proprioception
bilaterally.

-DTRs:
  ___ Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response mute bilaterally.

- Coordination - +dysmetria with finger to nose testing on the
right with clumsy finger tapping.

- Gait - Deferred.

DISCHARGE PHYSICAL EXAM:
General: NAD, resting in bed
HEENT: NCAT, no oropharyngeal lesions, moist mucous membranes,
sclerae anicteric
___: RRR
Pulmonary: CTAB
Abdomen: Soft, NT, ND
Extremities: Warm, no edema
Skin: No rashes or lesions

Neurologic Examination:
- Mental Status - Awake, alert, oriented to person, place and
time. Attention to examiner easily maintained. Recalls a 
coherent
history. Speech is fluent with full sentences, intact 
repetition,
and intact verbal comprehension. Content of speech demonstrates
intact naming (high and low frequency) and no paraphasias. 
Normal
prosody. No evidence of hemineglect. No left-right agnosia.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggling.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Mild dysarthria. Palate elevation
symmetric. Trapezius strength ___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone. + Right pronator drift. No 
tremor
or asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  4+  5    4+ 4+    5     4+

- Sensory - No deficits to light touch, pin, or proprioception
bilaterally.

-DTRs:
  ___ Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response mute bilaterally.

- Coordination - +dysmetria with finger to nose testing on the
right with clumsy finger tapping.

- Gait - Deferred.

 
Pertinent Results:
___ 05:50AM BLOOD WBC-5.6 RBC-4.42 Hgb-13.5 Hct-40.3 MCV-91 
MCH-30.5 MCHC-33.5 RDW-12.9 RDWSD-42.5 Plt ___
___ 03:12PM BLOOD WBC-5.5 RBC-4.64 Hgb-14.1 Hct-42.1 MCV-91 
MCH-30.4 MCHC-33.5 RDW-13.1 RDWSD-42.7 Plt ___
___ 03:12PM BLOOD ___ PTT-28.3 ___
___ 05:50AM BLOOD Glucose-91 UreaN-17 Creat-0.7 Na-141 
K-4.0 Cl-110* HCO3-23 AnGap-12
___ 03:12PM BLOOD Glucose-93 UreaN-23* Creat-0.6 Na-144 
K-3.6 Cl-111* HCO3-22 AnGap-15
___ 03:12PM BLOOD cTropnT-<0.01
___ 05:50AM BLOOD Calcium-8.7 Phos-2.6* Mg-2.0
___ 03:12PM BLOOD Calcium-9.0 Phos-2.8 Mg-2.0

___ ___
     1. No evidence of acute large vascular territorial 
infarction or
     acute hemorrhage.
     2. Small air-fluid level in the dependent right maxillary 
sinus,
     similar to the CT from 3 days prior, which may represent 
acute
     sinusitis in appropriate clinical setting, versus sequela 
of
     prolonged supine positioning.  Please correlate with 
symptoms.

___ MRI Brain
Interval appearance of generally acute area of brain ischemia 
involving the left caudate nucleus, posterior limb of the left 
internal capsule and left lentiform nucleus.  Otherwise, stable 
abnormalities of the brain and extracranial structures, 
described above.

 
Brief Hospital Course:
Pt is a ___ year female who was transferred from ___ after 
being seen to have right facial droop, slurred speech, and right 
sided dyscoordination. At outside hospital, she was evaluated 
with CTA which showed mild atherosclerosis and MRI which showed 
acute ischemic stroke L basal ganglia and posterior limb of 
internal capsule. Upon arrival at ___, she was continued on 
her home Aspirin and her Atorvastatin was increased to 40mg. She 
was evaluated by ___ and recommended for acute rehabilitation. 

Transition Issues:
-Pt will need to receive acute ___ at rehab facility
-Pt will need to follow up as previously scheduled for Zio patch 
evaluation
-Pt will need to follow up with Dr. ___ in Neurology ___
 
Medications on Admission:
Aspirin 81mg daily
AMLODIPINE - amlodipine 5 mg tablet. 1 tablet(s) by mouth daily
ATORVASTATIN - atorvastatin 20 mg tablet. 1 tablet(s) by mouth
Daily
METOPROLOL SUCCINATE - metoprolol succinate ER 100 mg
tablet,extended release 24 hr. 1 tablet(s) by mouth daily
MULTIVITAMIN - multivitamin capsule. 1 capsule(s) by mouth daily
occasionally
Vitamin B12
Vitamin D
 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM  
2.  amLODIPine 5 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Cyanocobalamin 100 mcg PO DAILY  
5.  Metoprolol Succinate XL 100 mg PO DAILY  
6.  Multivitamins 1 TAB PO DAILY  
7.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were hospitalized due to symptoms of slurred speech and 
right sided weakness resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
Recent transient ischemic attack
High blood pressure
High cholesterol
We are changing your medications as follows:
Please increase home atorvastatin to 40mg in the evening. 
Please take your other medications as prescribed. Please 
continue wearing your heart monitor as prescribed. 
Please followup with Neurology and your primary care physician.
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___